US06878700B1
N,N-Dimethyl piperazinylsulfamide
To a solution of tert-butyl 1-piperazinecarboxylate (2.5 g. 13.42 mmol) in tetrahydrofuran (21.5 ml, 0.25 M) at 0° C. was added triethylamine (2.25 mL, 16.11 mmol) followed by dimethylsulfamoyl chloride (1.73 mL, 16.11 mmol). The reaction mixture was stirred at 0° C. for 1 hour, diluted with ethyl acetate (100 mL) and washed with saturated NaHCO3 solution (2×30 mL), followed by brine (2×30 mL). The dried (Na2SO4) organic layer was evaporated to dryness under reduced pressure and the residue obtained was treated with 10% trifluoroacetic acid in methylene chloride (20 mL) at ambient temperature. After 48 hours, methylene chloride was evaporated in vacuo to obtain a colorless syrup. This crude material was made basic (1 N NaOH, 50 mL), and the mixture was extracted sequentially with ethyl acetate (2×20 mL) and methylene chloride (2×30 mL). The combined organic layers were dried (Na2SO4) and evaporated to dryness under reduced pressure to obtain the title compound in quantitative yield. 1H NMR (300 MHz, DMSO-d6) δ 2.77 (s, 3H), 2.79 (s, 3H), 3.12-3.20 (m, 7H), 3.3 (m,1H), 8.86 (br s, 1H); MS (ESI) m/e 194 (M+H)+.

reactant | tert-butyl 1-piperazinecarboxylate | 13.42 mmol, 2.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 16.11 mmol, 2.25 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 16.11 mmol, 1.73 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | tetrahydrofuran | 0.25 M, 21.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N,N-Dimethyl piperazinylsulfamide | quantitative yield | CN(S(=O)(=O)NN1CCNCC1)C | C6H16N4O2S
